US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(methylsulfonyl)acetamide (300 mg, 0.857 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (515 mg, 2.57 mmol) in s-BuOH (5 mL) were heated to 135° C. in a sealed tube for 24 hours. After cooling down, the residue was concentrated and purified by reverse phase chromatography (SP4, 25M, water/ACN 80/20→0/100, 30 CV) to yield (R)-tert-butyl 1-(5-bromo-3-(2-(methylsulfonyl)acetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (306 mg, 67.3% yield) as a solid.

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(methylsulfonyl)acetamide | 0.857 mmol, 300 mg | BrC=1C(=C2C(=NC1)NC=C2NC(CS(=O)(=O)C)=O)F | C10H9BrFN3O3S
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.57 mmol, 515 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | s-BuOH | 5 mL | C(C)(CC)O | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(2-(methylsulfonyl)acetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 306 mg, 67.3% yield | BrC=1C(=C2C(=NC1)NC=C2NC(CS(=O)(=O)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C20H28BrN5O5S
